US08476457B2
To a solution of 3-iodo-4-methyl-5-nitro-benzoic acid (16.06 g, 52.3 mmol) in acetone (300 mL) was added K2CO3 (14.46 g, 104.6 mmol) followed by methyl iodide ((3.91 mL, 62.76 mmol). The reaction mixture was stirred at 40° C. overnight, then cooled to room temperature and partitioned between ethyl acetate and brine. The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure to provide 16.5 g (98%) of 3-iodo-4-methyl-5-nitro-benzoic acid methyl ester.

reactant | 3-iodo-4-methyl-5-nitro-benzoic acid | 52.3 mmol, 16.06 g | IC=1C=C(C(=O)O)C=C(C1C)[N+](=O)[O-] | C8H6INO4
reactant | K2CO3 | 104.6 mmol, 14.46 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | CI | CH3I
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 3-iodo-4-methyl-5-nitro-benzoic acid methyl ester | 16.5 g, 98% | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])C)I)=O | C9H8INO4
